US06753322B2
Benzyl 4-[({[(2-{[(6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purin-2-yl)carbonyl]amino}ethyl)amino]carbonyl}-amino)-methyl]benzoate
Prepared from N-(2-aminoethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purin-2-carboxamide (Preparation 10) and benzyl 4-{[(1H-imidazol-1 ylcarbonyl)amino]methyl}benzoate (Preparation 54) by a similar method to Example 1. The target compound was obtained as a white solid.

reactant | N-(2-aminoethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purin-2-carboxamide | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N8O5
reactant | benzyl 4-{[(1H-imidazol-1 ylcarbonyl)amino]methyl}benzoate | N1(C=NC=C1)C(=O)NCC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C19H17N3O3
product | Benzyl 4-[({[(2-{[(6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purin-2-yl)carbonyl]amino}ethyl)amino]carbonyl}-amino)-methyl]benzoate | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCNC(=O)NCC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC=CC=C1 | C45H47N9O8
